US04919706
5-Ethoxy-2-methyl-4-thiazolesulfonamide (IV; Q=Q-1, R=CH3, R1 =OC2H5)
A solution of 11.1 g of 4-bromo-5-ethoxy-2-methylthiazole [prepared by the method of D. S. Tarbell et al., J. Amer. Chem. Soc., 72, 3138 (1950) in 50 ml ether was cooled to -60°, and 35.9 ml of a 1.7M solution of n-butyl lithium in hexane was added dropwise while maintaining the temperature below -45°. The resulting heavy yellow-brown suspension was diluted with an additional 25 ml ether and stirred 20 minutes at a temperature of -50° to -30°. The ethereal suspension of the lithiothiazole was added via syringe to a solution of 8.0 ml sulfuryl chloride in 50 ml hexane, while maintaining the temperature between -30° and -20°. After the suspension was stirred 15 minutes at -30°, it was allowed to warm to -5° and stirred 3.5 hours. The reaction mixture was poured into 500 ml ice-water. The two-phase suspension was extracted twice with ether. The combined organic solution was washed with water and brine, then dried over magneisum sulfate, filtered, and the solvent evaporated. The resulting oily solid was dissolved in 150 ml of tetrahydrofuran; the solution was cooled to 0°, and 6.7 ml of ammonium hydroxide added dropwise. The brown suspension was allowed to warm to ambient and stirred 3 hours. The solvent was evaporated, and the residual black oil partitioned between methylene chloride and water. The organic solution was washed with water followed by brine, then stirred 0.5 hour with magnesium sulfate and charcoal. The mixture was filtered through Celite@ and the solvent was evaporated. Trituration of the resulting brown oily solid with 1-chlorobutane gave 4.2 g of the title compound as a tan solid, m.p. 118°-120°. IR: 3.05 and 3.15μ (SO2NH2).

reactant | 4-bromo-5-ethoxy-2-methylthiazole | 11.1 g | BrC=1N=C(SC1OCC)C | C6H8BrNOS
reactant | n-butyl lithium | C(CCC)[Li]
reactant | lithiothiazole | [Li]C=1SC=CN1
reactant | sulfuryl chloride | 8.0 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | hexane | 50 ml | CCCCCC | C6H14
product | 5-Ethoxy-2-methyl-4-thiazolesulfonamide | 4.2 g | C(C)OC1=C(N=C(S1)C)S(=O)(=O)N | C6H10N2O3S2
